US07884109B2
2,3-dihydrobenzofuran-3-amine.
To the solution of benzofuran-3(2H)-one oxime (1.0 g, obtained from commercially available benzofuran-3(2H)-one via the procedure outlined for the synthesis of 4-fluorobenzofuran-3(2H)-one oxime from 4-fluorobenzofuran-3(2H)-one) in 50 mL MeOH, 10% Palladium on active carbon (0.1 g) was added. The mixture was evacuated then filled with H2 three times. Finally the oxime was reduced under a H2 balloon for 24 hours. The mixture was filtered through a pad of celite, and the cake was washed with MeOH twice. After removing the solvents under vacuum, 0.99 g brown-yellow residue was obtained as the desired amine. 1H NMR (300 MHz, CDCl3): δ 7.32 (d, 1H), 7.19 (t, 1H), 6.94 (t, 1H), 6.82 (d, 1H), 4.5-4.7 (m, 1H), 4.64 (s, 1H), 4.1-4.2 (m, 1H).

reactant | 4-fluorobenzofuran-3(2H)-one oxime | FC1=CC=CC2=C1C(CO2)=NO | C8H6FNO2
reactant | 4-fluorobenzofuran-3(2H)-one | FC1=CC=CC2=C1C(CO2)=O | C8H5FO2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | 2,3-dihydrobenzofuran-3-amine | 0.99 g | O1CC(C2=C1C=CC=C2)N | C8H9NO
